US06787560B2
A mixture of N-tert-butoxycarbonyl-4-(2-bromo-5-methoxybenzal)piperidine (87.7 g, 0.229 mol), 5% rhodium-carbon (25.6 g), ethyl acetate (150 mL) and ethyl alcohol (150 mL) was stirred at 40° C. for 16 hours under a hydrogen atmosphere. The precipitate was filtered and then washed with ethyl acetate, and the filtrate was concentrated to dryness. The residue was diluted with ethyl acetate (800 mL) and washed with a saturated aqueous sodium chloride solution (100 mL). The dilution was dried over anhydrous magnesium sulfate and then concentrated to dryness to obtain 78.7 g (0.205 mol, 89%) of N-tert-butoxycarbonyl-4-(2-bromo-5-methoxybenzyl)piperidine.

reactant | N-tert-butoxycarbonyl-4-(2-bromo-5-methoxybenzal)piperidine | 0.229 mol, 87.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=C(C=CC(=C1)OC)Br | C18H24BrNO3
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | rhodium-carbon | 25.6 g | [C].[Rh]
solvent | ethyl alcohol | 150 mL | C(C)O | C2H6O
product | N-tert-butoxycarbonyl-4-(2-bromo-5-methoxybenzyl)piperidine | 0.205 mol, 78.7 g, 89% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=C(C=CC(=C1)OC)Br | C18H26BrNO3
